US04193999
B. 1,2-Di-O-(n-hexadecyl)-3-O-formylmethyl-glycerol
Osmium tetroxide (90 mg., 0.354 mmoles) was added to a solution of 1,2-di-O-(n-hexadecyl)-3-O-allyl-glycerol (4.5 g., 7.75 mmoles) in tetrahydrofuran:water (3:1, 120 ml.), and the resulting solution stirred for 5 minutes at room temperature. Sodium periodate (9 g., 42 mmoles) was then added and the reaction solution stirred for 16 hours at room temperature under nitrogen. The reaction solution was then diluted with water (150 ml.) and extracted with ether (2×150 ml.). The combined ether extract was washed with water (150 ml.), dried (MgSO4) and evaporated in vacuo to an oil, which was purified by silica gel chromatography (elution with benzene:ethyl acetate) [2.6 g., 57% yield, waxy solid, ir (CHCl3) 1735 cm-1, n.m.r. (CDCl3) δ 9.38 (t, J=1 Hz, 1, --OCH2CHO) and 4.07 (d, J=1 Hz, 2, --OCH2CHO)].

reactant | 1,2-di-O-(n-hexadecyl)-3-O-allyl-glycerol | 7.75 mmoles, 4.5 g | C(CCCCCCCCCCCCCCC)OCC(OCCCCCCCCCCCCCCCC)COCC=C | C38H76O3
reactant | Sodium periodate | 42 mmoles, 9 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | tetrahydrofuran water | 120 ml | O1CCCC1.O
solvent | water | 150 ml | O | H2O
catalyst | Osmium tetroxide | 0.354 mmoles, 90 mg | [Os](=O)(=O)(=O)=O
product | 1,2-Di-O-(n-hexadecyl)-3-O-formylmethyl-glycerol | 57% yield | C(CCCCCCCCCCCCCCC)OCC(OCCCCCCCCCCCCCCCC)COCC=O | C37H74O4
